### PR TITLE
[Merged by Bors] - feat(RingTheory/NoetherNormalization): Add Noether normalization lemma

### PR DESCRIPTION
**Pull request by su00000**
This PR contains a proof of Noether normalization lemma:
Let `A` be a finitely generated algebra over a field `k`. Then there exists natural number $r$ and an injective homomorphism from `k[X_1, X_2, ..., X_r]` to `A` such that `A` is integral over `k[X_1, X_2, ..., X_r]`.

Co-authored-by: Riccardo Brasca <riccardo.brasca@gmail.com>
Co-authored-by: Wan Lin <3438488340@qq.com>
Co-authored-by: Xiaoyang Su <12210823@mail.sustech.edu.cn>

---

- [x] depends on: #18244

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 1]
```diff
@@ -0,0 +1,402 @@
...
+from $k[X_1, X_2, ..., X_r]$ to $A$ such that $A$ is integral over $k[X_1, X_2, ..., X_r]$.
+
+## Reference
+* <https://stacks.math.columbia.edu/tag/00OW>
+
+-/
+open Polynomial MvPolynomial Ideal BigOperators Nat RingHom
+
+variable {k : Type*} [Field k] {n : ℕ} (f : MvPolynomial (Fin (n + 1)) k)
+variable (v w : (Fin (n + 1)) →₀ ℕ)
```
Comment (alreadydone) [inline Mathlib/RingTheory/NoetherNormalization.lean:24]:
```suggestion
variable (v w : Fin (n + 1) →₀ ℕ)
```
Can you please try to remove all unnecessary parentheses?

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 2]
```diff
@@ -0,0 +1,402 @@
...
+    natDegree_mul h2 (Finset.prod_ne_zero_iff.mpr (fun i _ ↦ h3 i)),
+    natDegree_prod _  _ (fun i _ ↦ h3 i), natDegree_finSuccEquiv, degreeOf_C]
+  simp only [natDegree_pow, zero_add]
+  rw [one_mul, degreeOf_monomial_eq _ _ _ ha, natDegree_X, mul_one, add_left_cancel_iff]
+  apply Finset.sum_congr rfl
+  intro i _
+  rw [add_comm (Polynomial.C (X i)), natDegree_X_pow_add_C, degreeOf_monomial_eq _ _ _ ha, mul_comm]
+
+private lemma T_spec_degree (hv : v ∈ f.support) (hw : w ∈ f.support) (neq : v ≠ w) :
+    ((T f) ((monomial v) (coeff v f))).degreeOf 0 ≠
```
Comment (alreadydone) [inline Mathlib/RingTheory/NoetherNormalization.lean:219]:
```suggestion
    (T f (monomial v (coeff v f))).degreeOf 0 ≠
```
or you can try to use more `<|`: `(T f <| monomial v <| coeff v f)`
(untested)

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 3]
```diff
@@ -0,0 +1,402 @@
...
+and it's integral.-/
+private noncomputable def hom2 :=
+  (eqv2 f I).toAlgHom.comp ((eqv1 f I).toAlgHom.comp ((hom1 f I).restrictScalars k))
+
+/-Use induction to prove there is an injective map from $k[X_0,...X_{r-1}]$ to $k[X_0,...X_n]/I$.-/
+theorem exists_integral_inj (I : Ideal (MvPolynomial (Fin n) k))
+    (hi : I ≠ ⊤) : ∃ r ≤ n, ∃ g : (MvPolynomial (Fin r) k) →ₐ[k] ((MvPolynomial (Fin n) k) ⧸ I),
+    (Function.Injective g) ∧ g.IsIntegral := by
+  induction' n with d hd
+  · exact ⟨0, by rfl, (Quotient.mkₐ k I), by
```
Comment (alreadydone) [inline Mathlib/RingTheory/NoetherNormalization.lean:349]: I'd use `refine` here.

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 4]
```diff
@@ -0,0 +1,402 @@
...
+      by_contra neq
+      apply sub_ne_zero_of_ne at neq
+      have eq := eq_C_of_isEmpty (a - b)
+      have ne : (coeff 0 (a - b)) ≠ 0 := fun h ↦ (h ▸ eq ▸ neq) (map_zero _)
+      obtain ⟨c, _, eqr⟩ := isUnit_iff_exists.mp (Ne.isUnit ne)
+      have one : c • (a - b) = 1 := by
+        rw [MvPolynomial.smul_eq_C_mul, eq, ← RingHom.map_mul, eqr, MvPolynomial.C_1]
+      exact hi ((eq_top_iff_one I).mpr (one ▸ Submodule.smul_of_tower_mem I c hab))
+    · apply isIntegral_of_surjective _ (Quotient.mkₐ_surjective k I)⟩
+  · by_cases eqi : I = 0
```
Comment (alreadydone) [inline Mathlib/RingTheory/NoetherNormalization.lean:362]: You can remove the indentation here because this is the last goal (if I'm not mistaken).

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 5]
```diff
@@ -0,0 +1,402 @@
...
+        (hom1_int f I fne fi) (isIntegral_of_surjective _ (eqv1 f I).surjective))
+        (isIntegral_of_surjective _ (eqv2 f I).surjective)
+      rw [← comp] at this
+      exact ⟨r, by linarith, ϕ.comp g,
+        (ϕ.coe_comp  g) ▸ (Function.Injective.comp (kerLiftAlg_injective _) injg),
+        IsIntegral.trans _ _ intg (RingHom.IsIntegral.tower_top _ _ this)⟩
+
+theorem Noether_Normalization {R : Type*} [CommRing R] [Nontrivial R] [Algebra k R]
+    [fin : Algebra.FiniteType k R] : ∃ r, ∃ g : (MvPolynomial (Fin r) k) →ₐ[k] R,
+    (Function.Injective g) ∧ IsIntegral g.toRingHom := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/NoetherNormalization.lean:394]:
```suggestion
    [fin : Algebra.FiniteType k R] : ∃ r, ∃ g : MvPolynomial (Fin r) k →ₐ[k] R,
    Function.Injective g ∧ IsIntegral g.toRingHom := by
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 6]
```diff
@@ -0,0 +1,402 @@
...
+      apply sub_ne_zero_of_ne at neq
+      have eq := eq_C_of_isEmpty (a - b)
+      have ne : (coeff 0 (a - b)) ≠ 0 := fun h ↦ (h ▸ eq ▸ neq) (map_zero _)
+      obtain ⟨c, _, eqr⟩ := isUnit_iff_exists.mp (Ne.isUnit ne)
+      have one : c • (a - b) = 1 := by
+        rw [MvPolynomial.smul_eq_C_mul, eq, ← RingHom.map_mul, eqr, MvPolynomial.C_1]
+      exact hi ((eq_top_iff_one I).mpr (one ▸ Submodule.smul_of_tower_mem I c hab))
+    · apply isIntegral_of_surjective _ (Quotient.mkₐ_surjective k I)⟩
+  · by_cases eqi : I = 0
+    · set q := (Quotient.mkₐ k I)
```
Comment (alreadydone) [inline Mathlib/RingTheory/NoetherNormalization.lean:363]:
```suggestion
    · set q := Quotient.mkₐ k I
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 7]
```diff
@@ -0,0 +1,402 @@
...
+    rw [← finsum_eq_sum_of_fintype fun i ↦ degreeOf i f]
+    exact single_le_finsum i (Set.toFinite _) (fun j ↦ Nat.zero_le (degreeOf j f))
+  exact lt_one_add_iff.mpr (le_trans (monomial_le_degreeOf i hv) h)
+
+private noncomputable abbrev r : Fin (n + 1) → ℕ :=
+    fun i ↦ if i = 0 then 1 else ((n + 1) * (up f)) ^ (n + 1 - i)
+
+/-$T$ is an algebraic isomorphism.-/
+private noncomputable abbrev T1 : MvPolynomial (Fin (n + 1)) k →ₐ[k] MvPolynomial (Fin (n + 1)) k :=
+  aeval (fun i ↦  if i = 0 then X 0 else X i + (X 0) ^ (r f i))
```
Comment (alreadydone) [inline Mathlib/RingTheory/NoetherNormalization.lean:43]:
```suggestion
  aeval fun i ↦ if i = 0 then X 0 else X i + X 0 ^ r f i
```
and below

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 8]
```diff
@@ -0,0 +1,402 @@
...
+        exact Int.ofNat_zero_le _
+    · unfold_let
+      exact le_of_lt (abs_sub_lt_of_nonneg_of_lt (Int.ofNat_zero_le _)
+        (cast_lt.mpr (vlt j.succ)) (Int.ofNat_zero_le _) (cast_lt.mpr (wlt j.succ)))
+    · exact abs_nonneg _
+    · exact mul_nonneg (pow_nonneg (Int.ofNat_zero_le _) _) (pow_nonneg (Int.ofNat_zero_le _) _)
+
+private lemma equal (h : v 0 + ∑ x : Fin n, ((n + 1) * up f) ^ (n + 1 - x.succ) * v x.succ =
+  w 0 + ∑ x : Fin n, ((n + 1) * up f) ^ (n + 1 - ↑x.succ) * w x.succ) : ((v 0 : ℤ) - w 0) +
+  ∑ j : Fin n, (((n + 1 : ℤ) * up f) ^ (n + 1 - j.succ) * ((v j.succ) - (w j.succ))) = 0 := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/NoetherNormalization.lean:113]:
```suggestion
    w 0 + ∑ x : Fin n, ((n + 1) * up f) ^ (n + 1 - ↑x.succ) * w x.succ) : ((v 0 : ℤ) - w 0) +
    ∑ j : Fin n, (((n + 1 : ℤ) * up f) ^ (n + 1 - j.succ) * ((v j.succ) - (w j.succ))) = 0 := by
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 9]
```diff
@@ -0,0 +1,401 @@
...
+
+-/
+open Polynomial MvPolynomial Ideal BigOperators Nat RingHom
+
+variable {k : Type*} [Field k] {n : ℕ} (f : MvPolynomial (Fin (n + 1)) k)
+variable (v w : Fin (n + 1) →₀ ℕ)
+
+/-Suppose $f$ is a nonzero polynomial of $n+1$ variables : $X_0,...,X_n$.
+We construct a ring homomorphism $T$ which maps $X_i$ into $X_i + X_0^{r_i}$ when $i \neq 0$,
+and maps $f$ into some monic polynomial (regarded as a polynomial of $X_0$).-/
```
Comment (alreadydone) [inline Mathlib/RingTheory/NoetherNormalization.lean:28]:
```suggestion
/-Suppose $f$ is a nonzero polynomial of $n+1$ variables : $X_0,...,X_n$.
We construct a ring homomorphism $T$ which maps $X_i$ into $X_i + X_0^{r_i}$ when $i \neq 0$,
and maps $f$ into some monic polynomial (regarded as a polynomial of $X_0$).-/

```
This docstring isn't specific to `abbrev up`.

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 10]
```diff
@@ -0,0 +1,401 @@
...
+private lemma T_left_inv : (T_inv f).comp (T1 f) = AlgHom.id _ _ := by
+  rw [comp_aeval, ← MvPolynomial.aeval_X_left]
+  congr
+  ext i v
+  cases' i using Fin.cases with d
+  · simp only [if_pos, MvPolynomial.aeval_X]
+  · simp only [Fin.succ_ne_zero, ite_false, map_add, map_pow,
+      MvPolynomial.aeval_X, if_pos, sub_add_cancel]
+
+private lemma T_right_inv : (T1 f).comp (T_inv f) = AlgHom.id _ _ := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/NoetherNormalization.lean:58]: You should be able to use `T_left_inv` to prove this ... if you generalize it a bit.
Generalize from `X 0 ^ r f i` to arbitrary polynomial in `X 0`.

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 11]
```diff
@@ -0,0 +1,401 @@
...
+      MvPolynomial.aeval_X, if_pos, add_sub_cancel_right]
+
+private noncomputable abbrev T := AlgEquiv.ofAlgHom (T1 f) (T_inv f) (T_right_inv f) (T_left_inv f)
+
+/-$r_i$ satisfies that any two different monomial in $f$ have different degree of $X_0$
+after mapped by $T$.-/
+private lemma a_j (vlt : ∀ i, v i < up f) (wlt : ∀ i, w i < up f) (i : Fin n)
+  (pj : ∀ (j : Fin n), (v j.succ ≠ w j.succ) → i ≤ j) :  ∀ j : Fin n, (if j ≠ i then
+  |(((n + 1 : ℤ) * up f) ^ (n + 1 - j.succ) * ((v j.succ) - (w j.succ)))| else 0)
+  ≤ (n + 1 : ℤ) ^ (n - i.succ) * up f ^ (n + 1 - i.succ) := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/NoetherNormalization.lean:74]: Have you looked into [Nat.ofDigits](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Digits.html#Nat.ofDigits)? [Nat.digits_ofDigits](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Digits.html#Nat.digits_ofDigits) should give the injectivity easily. There is [List.ofFn](https://leanprover-community.github.io/mathlib4_docs/Batteries/Data/List/Basic.html#List.ofFn) to convert a Fin tuple to a list.

It's not clear to me what this lemma is doing ...

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 12]
```diff
@@ -0,0 +1,401 @@
...
+        simp only [cast_add, cast_one, le_add_iff_nonneg_right]
+        exact Int.ofNat_zero_le _
+      linarith
+    rw [eq2] at this
+    have h2 := abs_add_le a0 (∑ j : Fin n with j ≠ i, a j)
+    have h3 := Finset.abs_sum_le_sum_abs a (Finset.filter (fun j ↦ j ≠ i) Finset.univ)
+    linarith
+
+private lemma T_spec_monomial (a : k) (ha : a ≠ 0) : ((T f) (monomial v a)).degreeOf 0 =
+    ∑ i : Fin (n + 1), (r f i) * ((monomial v a).degreeOf i) := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/NoetherNormalization.lean:188]: `(monomial v a).degreeOf i` is the same as `v i` by [MvPolynomial.degreeOf_monomial_eq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/MvPolynomial/Degrees.html#MvPolynomial.degreeOf_monomial_eq). I think you should use the shorter spelling in the statement.

File: Mathlib/Data/Nat/Digits.lean [hunk 13]
```diff
@@ -341,6 +341,27 @@ theorem mul_ofDigits (n : ℕ) {b : ℕ} {l : List ℕ} :
     rw [List.map_cons, ofDigits_cons, ofDigits_cons, ← ih]
     ring
 
+lemma list_eq_of_ofDigits_eq (b : ℕ) (hb : 1 < b) (L1 : List ℕ) (L2 : List ℕ)
+    (len : L1.length = L2.length) (w1 : ∀ l ∈ L1, l < b) (w2 : ∀ l ∈ L2, l < b)
+    (h : ofDigits b L1 = ofDigits b L2) : L1 = L2 := by
+  induction' L1 with D L ih generalizing L2
+  · simp only [List.length_nil] at len
+    exact (List.length_eq_zero.mp len.symm).symm
+  obtain ⟨d, l, eq⟩ := List.exists_cons_of_length_eq_add_one len.symm
```
Comment (riccardobrasca) [inline Mathlib/Data/Nat/Digits.lean:350]:
```suggestion
  obtain ⟨d, l, rfl⟩ := List.exists_cons_of_length_eq_add_one len.symm
```
Writing `rfl` will does `rw [eq]` everywhere, that is what you want (you have to remove all the `eq` from the rest of the proof).

File: Mathlib/Data/Nat/Digits.lean [hunk 14]
```diff
@@ -341,6 +341,27 @@ theorem mul_ofDigits (n : ℕ) {b : ℕ} {l : List ℕ} :
...
+  rw [eq]
+  simp only [eq, List.length_cons, add_left_inj] at len
+  simp only [eq, Nat.ofDigits_cons] at h
+  rw [eq] at w2
+  have eqd : D = d := by
+    have H : (D + b * ofDigits b L) % b = (d + b * ofDigits b l) % b := by rw [h]
+    simp only [Nat.add_mul_mod_self_left, Nat.mod_eq_of_lt (w2 d <| List.mem_cons_self d l),
```
Comment (riccardobrasca) [inline Mathlib/Data/Nat/Digits.lean:357]:
```suggestion
    simp only [Nat.add_mul_mod_self_left, mod_eq_of_lt (w2 d <| List.mem_cons_self d l),
```
The namespace`Nat` is already opened (similarly below). Also, you can finish the proof with something like
```lean
simpa [mod_eq_of_lt (w2 d <| List.mem_cons_self d l),
      mod_eq_of_lt (w1 D <| List.mem_cons_self D L)] using H
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 15]
```diff
@@ -0,0 +1,288 @@
+/-
+Copyright (c) 2024 Sihan Su. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Riccardo Brasca, Sihan Su, Wan Lin, Xiaoyang Su
+-/
+import Mathlib.Algebra.MvPolynomial.Monad
+import Mathlib.Data.List.Indexes
+import Mathlib.RingTheory.IntegralClosure.IsIntegralClosure.Basic
+/-!
+# Norther Normalizaton
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:10]:
```suggestion
# Noether Normalizaton
```

**Review by riccardobrasca — COMMENTED** [review]
I will have a look at the main file later today, but this looks good, thanks!

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 16]
```diff
@@ -0,0 +1,287 @@
...
+
+-/
+open Polynomial MvPolynomial Ideal BigOperators Nat RingHom
+
+variable {k : Type*} [Field k] {n : ℕ} (f : MvPolynomial (Fin (n + 1)) k)
+variable (v w : Fin (n + 1) →₀ ℕ)
+
+/-- Suppose $f$ is a nonzero polynomial of $n+1$ variables : $X_0,...,X_n$.
+`up` is a number which is big enough. -/
+noncomputable abbrev up := 2 + f.totalDegree
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:29]:
```suggestion
local notation3 "up" => 2 + f.totalDegree
```
It seems better to have it as a simple notation (so it is completely transparent to Lean). Note that you have to remove `f` from `up f` everywhere.

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 17]
```diff
@@ -0,0 +1,287 @@
...
+
+private lemma up_lt (hv : v ∈ f.support) : ∀ i, v i < up f := by
+  intro i
+  have := lt_one_add_iff.mpr <| le_trans (monomial_le_degreeOf i hv) <| degreeOf_le_totalDegree f i
+  linarith
+
+private lemma ltup : 1 < up f := Nat.lt_add_right f.totalDegree one_lt_two
+
+/-- `r` maps i to $up ^ i$-/
+noncomputable abbrev r : Fin (n + 1) → ℕ := fun i ↦ up f ^ i.1
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:39]:
```suggestion
noncomputable abbrev r : Fin (n + 1) → ℕ := fun i ↦ up ^ i.1
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 18]
```diff
@@ -0,0 +1,287 @@
...
+lemma lt {f : MvPolynomial (Fin (n + 1)) k} {v : Fin (n + 1) →₀ ℕ}
+  (vlt : ∀ i, v i < up f) : ∀ l ∈ List.ofFn v, l < up f := by
+  intro l h
+  rw [List.mem_ofFn, Set.mem_range] at h
+  obtain ⟨y, hy⟩ := h
+  exact hy ▸ vlt y
+
+private lemma r_ne (vlt : ∀ i, v i < up f) (wlt : ∀ i, w i < up f) (neq : v ≠ w) :
+    ∑ x : Fin (n + 1), r f x * v x ≠ ∑ x : Fin (n + 1), r f x * w x := by
+  unfold r
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:70]:
```suggestion
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 19]
```diff
@@ -0,0 +1,287 @@
...
+## Main Results
+Let $A$ be a finitely generated algebra over a field $k$.
+Then there exists natural number $r$ and an injective homomorphism
+from $k[X_1, X_2, ..., X_r]$ to $A$ such that $A$ is integral over $k[X_1, X_2, ..., X_r]$.
+
+## Reference
+* <https://stacks.math.columbia.edu/tag/00OW>
+
+-/
+open Polynomial MvPolynomial Ideal BigOperators Nat RingHom
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:22]:
```suggestion
open Polynomial MvPolynomial Ideal BigOperators Nat RingHom List
```
Then you can get rid of all `List.`.

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 20]
```diff
@@ -0,0 +1,287 @@
...
+  (vlt : ∀ i, v i < up f) : ∀ l ∈ List.ofFn v, l < up f := by
+  intro l h
+  rw [List.mem_ofFn, Set.mem_range] at h
+  obtain ⟨y, hy⟩ := h
+  exact hy ▸ vlt y
+
+private lemma r_ne (vlt : ∀ i, v i < up f) (wlt : ∀ i, w i < up f) (neq : v ≠ w) :
+    ∑ x : Fin (n + 1), r f x * v x ≠ ∑ x : Fin (n + 1), r f x * w x := by
+  unfold r
+  by_contra h
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:71]:
```suggestion
  intro h
```
Does the same thing.

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 21]
```diff
@@ -0,0 +1,287 @@
...
+  have : List.ofFn v = List.ofFn w := by
+    apply list_eq_of_ofDigits_eq (ltup f) (by simp only [List.length_ofFn]) (lt vlt) (lt wlt)
+    simp only [ofDigits_eq_sum_mapIdx, List.mapIdx_eq_ofFn, List.get_ofFn]
+    repeat rw [← List.sum_ofFn] at h
+    simp only [List.length_ofFn, Fin.cast_trans, Fin.cast_eq_self, Fin.coe_cast, mul_comm]
+    exact h
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:77]:
```suggestion
  have : ofFn v = ofFn w := by
    apply list_eq_of_ofDigits_eq (ltup f) (by simp) (lt vlt) (lt wlt)
    simp only [ofDigits_eq_sum_mapIdx, mapIdx_eq_ofFn, get_ofFn,
      length_ofFn, Fin.cast_trans, Fin.cast_eq_self, Fin.coe_cast, mul_comm]
    simpa only [← sum_ofFn] using h
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 22]
```diff
@@ -0,0 +1,287 @@
...
+  exact neq <| Finsupp.ext <| congrFun <| List.ofFn_inj.mp this
+
+private lemma T_monomial (a : k) (ha : a ≠ 0) : ((T f) (monomial v a)).degreeOf 0 =
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:80]:
```suggestion
private lemma T_monomial {a : k} (ha : a ≠ 0) : ((T f) (monomial v a)).degreeOf 0 =
```
Need a fix later.

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 23]
```diff
@@ -0,0 +1,287 @@
...
+    ∑ i : Fin (n + 1), (r f i) * v i := by
+  rw [← natDegree_finSuccEquiv]
+  nth_rw 1 [monomial_eq]
+  rw [Finsupp.prod_pow v fun a ↦ X a, Fin.prod_univ_succ]
+  simp only [Fin.sum_univ_succ, _root_.map_mul, map_prod, map_pow]
+  simp only [AlgEquiv.ofAlgHom_apply, MvPolynomial.aeval_C, MvPolynomial.aeval_X, if_pos,
+    Fin.succ_ne_zero, ite_false, one_smul, map_add, map_pow, finSuccEquiv_X_zero,
+    finSuccEquiv_X_succ, algebraMap_eq]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:88]: This two `simp only` can be merged in one command.

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 24]
```diff
@@ -0,0 +1,287 @@
...
+  have h1 : (finSuccEquiv k n) (C a) ≠ 0 :=
+    (map_ne_zero_iff _ (AlgEquiv.injective _)).mpr ((map_ne_zero_iff _ (C_injective _ _)).mpr ha)
+  have h2 : Polynomial.X (R := (MvPolynomial (Fin n) k))^ v 0 ≠ 0 := pow_ne_zero (v 0) X_ne_zero
+  have h3 : ∀ i : Fin n, (Polynomial.C (X (R := k) i) + Polynomial.X ^ r f i.succ)
+    ^ v i.succ ≠ 0 := by
+    intro i
+    apply pow_ne_zero (v i.succ) (leadingCoeff_ne_zero.mp ?_)
+    rw [add_comm, leadingCoeff_X_pow_add_C]
+    exact one_ne_zero
+    simp only [add_pos_iff, ofNat_pos, true_or, pow_pos]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:98]:
```suggestion
    · exact one_ne_zero
    · simp only [add_pos_iff, ofNat_pos, true_or, pow_pos]
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 25]
```diff
@@ -0,0 +1,287 @@
...
+  rw [natDegree_mul h1 (mul_ne_zero h2 (Finset.prod_ne_zero_iff.mpr (fun i _ ↦ h3 i))),
+    natDegree_mul h2 (Finset.prod_ne_zero_iff.mpr (fun i _ ↦ h3 i)),
+    natDegree_prod _  _ (fun i _ ↦ h3 i), natDegree_finSuccEquiv, degreeOf_C]
+  simp only [natDegree_pow, zero_add]
+  have e1 : r f 0 = 1 := by
+    unfold r
+    simp only [Fin.val_zero, pow_zero]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:105]:
```suggestion
  have e1 : r f 0 = 1 := by simp [r]
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 26]
```diff
@@ -0,0 +1,287 @@
...
+  apply Finset.sum_congr rfl
+  intro i _
+  rw [add_comm (Polynomial.C (X i)), natDegree_X_pow_add_C, mul_comm]
+
+private lemma T_degree (hv : v ∈ f.support) (hw : w ∈ f.support) (neq : v ≠ w) :
+    (T f <| monomial v <| coeff v f).degreeOf 0 ≠
+    (T f <| monomial w <| coeff w f).degreeOf 0 := by
+  have nv := mem_support_iff.mp hv
+  have nw := mem_support_iff.mp hw
+  rw [T_monomial _ _ _ nv, T_monomial _ _ _ nw]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:116]:
```suggestion
  rw [T_monomial _ _ <| mem_support_iff.mp hv, T_monomial _ _ <| mem_support_iff.mp hw]
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 27]
```diff
@@ -0,0 +1,287 @@
...
+  exact r_ne f v w (up_lt f v hv) (up_lt f w hw) neq
+
+private lemma T_coeff :
+    (finSuccEquiv k n ((T f) ((monomial v) (coeff v f)))).leadingCoeff =
+    algebraMap k _ (coeff v f) := by
+  rw [monomial_eq, Finsupp.prod_fintype]
+  · simp only [_root_.map_mul, map_prod, leadingCoeff_mul, leadingCoeff_prod]
+    rw [AlgEquiv.ofAlgHom_apply, algHom_C, algebraMap_eq, finSuccEquiv_apply,
+      eval₂Hom_C, coe_comp]
+    simp only[AlgEquiv.ofAlgHom_apply, Function.comp_apply, leadingCoeff_C, map_pow,
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:126]:
```suggestion
    simp only [AlgEquiv.ofAlgHom_apply, Function.comp_apply, leadingCoeff_C, map_pow,
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 28]
```diff
@@ -0,0 +1,287 @@
...
+    (fun v ↦ (T f ((monomial v) (coeff v f))).degreeOf 0) (support_nonempty.mpr fne)
+  set h := fun w ↦ (MvPolynomial.monomial w) (coeff w f)
+  simp only [← natDegree_finSuccEquiv] at vs
+  replace vs : ∀ x ∈ f.support \ {v}, (finSuccEquiv k n ((T f) (h x))).degree <
+      (finSuccEquiv k n ((T f) (h v))).degree := by
+    intro x hx
+    obtain ⟨h1, h2⟩ := Finset.mem_sdiff.mp hx
+    apply degree_lt_degree
+    apply lt_of_le_of_ne (vs x h1)
+    repeat rw [natDegree_finSuccEquiv]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:153]:
```suggestion
    simp only [natDegree_finSuccEquiv]
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 29]
```diff
@@ -0,0 +1,287 @@
...
+    simp only [map_add, map_sum]
+    rw [add_comm]
+    apply leadingCoeff_add_of_degree_lt
+    apply lt_of_le_of_lt <| degree_sum_le _ _
+    set degv := (finSuccEquiv k n ((T f) (h v))).degree
+    set els := ∑ x ∈ f.support \ {v}, (finSuccEquiv k n) ((T f) (h x))
+    have h2 : h v ≠ 0 := by
+      unfold h
+      simp only [ne_eq, monomial_eq_zero]
+      exact mem_support_iff.mp vin
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:166]:
```suggestion
    have h2 : h v ≠ 0 := by simpa [h] using mem_support_iff.mp vin
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 30]
```diff
@@ -0,0 +1,287 @@
...
+    replace h2 : (finSuccEquiv k n ((T f) (h v))) ≠ 0 := by
+      by_contra eq
+      repeat rw [map_eq_zero_iff _ (AlgEquiv.injective _)] at eq
+      exact h2 eq
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:170]:
```suggestion
    replace h2 : (finSuccEquiv k n ((T f) (h v))) ≠ 0 := fun eq ↦ h2 <|
      by simpa only [map_eq_zero_iff _ (AlgEquiv.injective _)] using eq```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 31]
```diff
@@ -0,0 +1,287 @@
...
+-/
+import Mathlib.Algebra.MvPolynomial.Monad
+import Mathlib.Data.List.Indexes
+import Mathlib.RingTheory.IntegralClosure.IsIntegralClosure.Basic
+/-!
+# Noether Normalizaton
+This file contains a proof of Noether normalization lemma by Nagata.
+
+## Main Results
+Let $A$ be a finitely generated algebra over a field $k$.
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:14]:
```suggestion
Let `A` be a finitely generated algebra over a field `k`.
```
And similarly everywhere else.

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 32]
```diff
@@ -0,0 +1,287 @@
...
+    exact IsUnit.map MvPolynomial.C <| Ne.isUnit <| mem_support_iff.mp vin
+  exact ⟨u.unit⁻¹, monic_of_isUnit_leadingCoeff_inv_smul u⟩
+
+/-$I$ is an ideal containing $f$.-/
+variable (I : Ideal (MvPolynomial (Fin (n + 1)) k))
+
+/-$hom1$ is a homomorphism from $k[X_0,...X_{n-1}]$ into $k[X_1,...X_n][X]/\phi(T(I))$,
+where $\phi$ is the isomorphism from $k[X_0,...X_{n-1}]$ to $k[X_1,...X_n][X]$.
+And it is integral by the lemma above.-/
+private noncomputable abbrev hom1 :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:187]: Can you please write the type of `hom1` explicitly?

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 33]
```diff
@@ -0,0 +1,287 @@
...
+  (Quotient.mkₐ (MvPolynomial (Fin n) k) (map (finSuccEquiv k n) (map (T f) I))).comp
+  (Algebra.ofId (MvPolynomial (Fin n) k) ((MvPolynomial (Fin n) k)[X]))
+
+set_option synthInstance.maxHeartbeats 40000
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:191]:
```suggestion
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 34]
```diff
@@ -0,0 +1,287 @@
...
+  symm
+  have : g.symm.toRingEquiv.toRingHom.comp g = RingHom.id _ :=
+    RingEquiv.symm_toRingHom_comp_toRingHom g.toRingEquiv
+  calc
+    _ = map (g.symm.toAlgHom.toRingHom.comp g) (map (T f) I) := by
+      rw [← Ideal.map_map]; rfl
+    _ = map (RingHom.id _) (map (T f) I) := by congr
+    _ = Ideal.map ((RingHom.id _).comp <| T f) I := by rw [← Ideal.map_map]; rfl
+    _ = _ := by rw [id_comp]; rfl
+  )
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:211]:
```suggestion
    _ = _ := by rw [id_comp]; rfl)
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 35]
```diff
@@ -0,0 +1,287 @@
...
+      constructor
+      · intro a b hab
+        rw [Ideal.Quotient.eq, eqi, Submodule.zero_eq_bot, mem_bot] at hab
+        rw [← add_zero b, ← hab, add_sub_cancel]
+      · exact Quotient.mk_surjective
+    exact ⟨d + 1, by rfl, q, bij.1, q.isIntegral_of_surjective bij.2⟩
+  · obtain ⟨f, fi, fne⟩ := Submodule.exists_mem_ne_zero_of_ne_bot eqi
+    set ϕ := kerLiftAlg <| hom2 f I
+    have ne : ker (hom2 f I) ≠ ⊤ := by
+      by_contra eq
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:261]:
```suggestion
      intro eq
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 36]
```diff
@@ -0,0 +1,287 @@
...
+      replace eq := (mem_ker (f := hom2 f I) (r := 1)).mp (eq ▸ trivial)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:262]: I am pretty sure we have a lemma to do this. If it is really missing we should add it.

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 37]
```diff
@@ -0,0 +1,287 @@
...
+      simp only [AlgHom.coe_comp, Quotient.mkₐ_eq_mk, Function.comp_apply, kerLiftAlg_mk]
+    have : (hom2 f I).IsIntegral := IsIntegral.trans _ _ (IsIntegral.trans _ _
+      (hom1_int f I fne fi) (isIntegral_of_surjective _ (eqv1 f I).surjective))
+      (isIntegral_of_surjective _ (eqv2 f I).surjective)
+    rw [← comp] at this
+    exact ⟨r, by linarith, ϕ.comp g,
+      (ϕ.coe_comp  g) ▸ (Function.Injective.comp (kerLiftAlg_injective _) injg),
+      IsIntegral.trans _ _ intg (RingHom.IsIntegral.tower_top _ _ this)⟩
+
+theorem Noether_Normalization {R : Type*} [CommRing R] [Nontrivial R] [Algebra k R]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:277]: We use explicit name even for theorems that have a "standard name", so this should be called something like `exists_algHom_of_...`.

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 38]
```diff
@@ -0,0 +1,270 @@
...
+  rw [natDegree_X, mul_one, Fin.val_zero, pow_zero, one_mul, add_right_inj]
+  apply Finset.sum_congr rfl
+  intro i _
+  rw [add_comm (Polynomial.C (X i)), natDegree_X_pow_add_C, mul_comm]
+
+private lemma T_degree (hv : v ∈ f.support) (hw : w ∈ f.support) (neq : v ≠ w) :
+    (T f <| monomial v <| coeff v f).degreeOf 0 ≠
+    (T f <| monomial w <| coeff w f).degreeOf 0 := by
+  rw [T_monomial _ _ <| mem_support_iff.mp hv, T_monomial _ _ <| mem_support_iff.mp hw]
+  exact r_ne f v w (up_lt f v hv) (up_lt f w hw) neq
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:108]:
```suggestion
  exact lt_of_le_of_lt ((monomial_le_degreeOf i ‹_›).trans (degreeOf_le_totalDegree f i))
    (by omega)
```
Doing this you can remove the lemma `up_lt` (I am trying to reduce the number of private lemmas).

Comment (riccardobrasca) [reply Mathlib/RingTheory/NoetherNormalization.lean:108]: Sorry, the right line is
```lean
  refine r_ne f v w (fun i ↦ ?_) (fun i ↦ ?_) neq <;>
  exact lt_of_le_of_lt ((monomial_le_degreeOf i ‹_›).trans (degreeOf_le_totalDegree f i))
    (by omega)
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 39]
```diff
@@ -0,0 +1,270 @@
...
+/-- We construct an algebra map `T1` which maps `X_i` into `X_i + X_0 ^ r_i` when `i ≠ 0`,
+and maps `f` into some monic polynomial (regarded as a polynomial of `X_0`).-/
+noncomputable abbrev T1 (c : k) :
+    MvPolynomial (Fin (n + 1)) k →ₐ[k] MvPolynomial (Fin (n + 1)) k :=
+  aeval fun i ↦ if i = 0 then X 0 else X i + c • X 0 ^ r i
+
+private lemma inv_pair (c : k) :
+    (T1 f c).comp (T1 f (-c)) = AlgHom.id _ _ := by
+  rw [comp_aeval, ← MvPolynomial.aeval_X_left]
+  congr
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:49]:
```suggestion
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 40]
```diff
@@ -0,0 +1,270 @@
...
+
+private lemma r_ne (vlt : ∀ i, v i < up) (wlt : ∀ i, w i < up) (neq : v ≠ w) :
+    ∑ x : Fin (n + 1), r x * v x ≠ ∑ x : Fin (n + 1), r x * w x := by
+  intro h
+  have : ofFn v = ofFn w := by
+    apply list_eq_of_ofDigits_eq (Nat.lt_add_right f.totalDegree one_lt_two)
+      (by simp) (lt vlt) (lt wlt)
+    simp only [ofDigits_eq_sum_mapIdx, mapIdx_eq_ofFn, get_ofFn, length_ofFn,
+      Fin.coe_cast, mul_comm]
+    simpa only [sum_ofFn] using h
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:75]:
```suggestion
    simpa only [ofDigits_eq_sum_mapIdx, mapIdx_eq_ofFn, get_ofFn, length_ofFn,
      Fin.coe_cast, mul_comm, sum_ofFn] using h
```

Comment (riccardobrasca) [reply Mathlib/RingTheory/NoetherNormalization.lean:75]: You can even do
```lean
private lemma r_ne (vlt : ∀ i, v i < up) (wlt : ∀ i, w i < up) (neq : v ≠ w) :
    ∑ x : Fin (n + 1), r x * v x ≠ ∑ x : Fin (n + 1), r x * w x := by
  intro h
  refine neq <| Finsupp.ext <| congrFun <| ofFn_inj.mp ?_
  apply list_eq_of_ofDigits_eq (Nat.lt_add_right f.totalDegree one_lt_two)
    (by simp) (lt vlt) (lt wlt)
  simpa only [ofDigits_eq_sum_mapIdx, mapIdx_eq_ofFn, get_ofFn, length_ofFn,
      Fin.coe_cast, mul_comm, sum_ofFn] using h
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 41]
```diff
@@ -0,0 +1,253 @@
...
+private lemma inv_pair (c : k) :
+    (T1 f c).comp (T1 f (-c)) = AlgHom.id _ _ := by
+  rw [comp_aeval, ← MvPolynomial.aeval_X_left]
+  ext i v
+  cases i using Fin.cases <;>
+  simp [Fin.succ_ne_zero]
+
+/-- `T1` leads to an algebra equiv `T`.-/
+private noncomputable abbrev T := AlgEquiv.ofAlgHom (T1 f 1) (T1 f (-1))
+  (inv_pair f 1) (by convert (inv_pair f (-1)); exact (InvolutiveNeg.neg_neg 1).symm)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:51]:
```suggestion
  (inv_pair f 1) ((by simpa using inv_pair f (-1)))
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 42]
```diff
@@ -0,0 +1,253 @@
...
+  aeval fun i ↦ if i = 0 then X 0 else X i + c • X 0 ^ r i
+
+private lemma inv_pair (c : k) :
+    (T1 f c).comp (T1 f (-c)) = AlgHom.id _ _ := by
+  rw [comp_aeval, ← MvPolynomial.aeval_X_left]
+  ext i v
+  cases i using Fin.cases <;>
+  simp [Fin.succ_ne_zero]
+
+/-- `T1` leads to an algebra equiv `T`.-/
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:49]:
```suggestion
/-- `T1 f 1` leads to an algebra equiv `T`.-/
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 43]
```diff
@@ -0,0 +1,253 @@
...
+  have h1 : (finSuccEquiv k n) (C a) ≠ 0 :=
+    (map_ne_zero_iff _ (AlgEquiv.injective _)).mpr ((map_ne_zero_iff _ (C_injective _ _)).mpr ha)
+  have h2 : Polynomial.X (R := (MvPolynomial (Fin n) k)) ^ v 0 ≠ 0 := pow_ne_zero (v 0) X_ne_zero
+  have h3 : ∀ i : Fin n, (Polynomial.C (X (R := k) i) + Polynomial.X ^ r i.succ)
+    ^ v i.succ ≠ 0 := by
+    intro i
+    apply pow_ne_zero (v i.succ) (leadingCoeff_ne_zero.mp ?_)
+    rw [add_comm, leadingCoeff_X_pow_add_C]
+    · exact one_ne_zero
+    · simp only [add_pos_iff, ofNat_pos, true_or, pow_pos]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:84]:
```suggestion
    · simp
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 44]
```diff
@@ -0,0 +1,253 @@
...
+    ∑ i : Fin (n + 1), (r i) * v i := by
+  rw [← natDegree_finSuccEquiv, monomial_eq, Finsupp.prod_pow v fun a ↦ X a]
+  simp only [Fin.prod_univ_succ, Fin.sum_univ_succ, _root_.map_mul, map_prod, map_pow,
+    AlgEquiv.ofAlgHom_apply, MvPolynomial.aeval_C, MvPolynomial.aeval_X, if_pos, Fin.succ_ne_zero,
+    ite_false, one_smul, map_add, finSuccEquiv_X_zero, finSuccEquiv_X_succ, algebraMap_eq]
+  have h1 : (finSuccEquiv k n) (C a) ≠ 0 :=
+    (map_ne_zero_iff _ (AlgEquiv.injective _)).mpr ((map_ne_zero_iff _ (C_injective _ _)).mpr ha)
+  have h2 : Polynomial.X (R := (MvPolynomial (Fin n) k)) ^ v 0 ≠ 0 := pow_ne_zero (v 0) X_ne_zero
+  have h3 : ∀ i : Fin n, (Polynomial.C (X (R := k) i) + Polynomial.X ^ r i.succ)
+    ^ v i.succ ≠ 0 := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:79]:
```suggestion
  have h3 : ∀ i : Fin n,
      (Polynomial.C (X (R := k) i) + Polynomial.X ^ r i.succ) ^ v i.succ ≠ 0 := by
```
It's more readable

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 45]
```diff
@@ -0,0 +1,253 @@
...
+
+/-- Suppose `f` is a nonzero polynomial of `n+1` variables : `X_0,...,X_n`.
+`up` is a number which is big enough. -/
+local notation3 "up" => 2 + f.totalDegree
+
+/-- `r` maps i to `up ^ i`-/
+local notation3 "r" => fun (i : Fin (n + 1)) ↦ up ^ i.1
+
+/-- We construct an algebra map `T1` which maps `X_i` into `X_i + X_0 ^ r_i` when `i ≠ 0`,
+and maps `f` into some monic polynomial (regarded as a polynomial of `X_0`).-/
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:37]:
```suggestion
/-- We construct an algebra map `T1 f c` which maps `X_i` into `X_i + c • X_0 ^ r_i` when `i ≠ 0`
and `X_0` to `X_0`.-/
```
Here you say "It maps `f` into some monic polynomial (regarded as a polynomial of `X_0`).". Do you prove this later in some sense?

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 46]
```diff
@@ -0,0 +1,253 @@
...
+  rw [T_coeff] at coeff
+  have u : IsUnit (finSuccEquiv k n ((T f) (h v + ∑ x ∈ f.support \ {v}, h x))).leadingCoeff := by
+    simpa only [coeff, algebraMap_eq] using (mem_support_iff.mp vin).isUnit.map MvPolynomial.C
+  exact ⟨u.unit⁻¹, monic_of_isUnit_leadingCoeff_inv_smul u⟩
+
+variable (I : Ideal (MvPolynomial (Fin (n + 1)) k))
+
+/-- Let `I` be an ideal containing `f`. `hom1` is a homomorphism from `k[X_0,...X_{n-1}]`
+to `k[X_1,...X_n][X]/φ(T(I))`, where `φ` is the isomorphism from `k[X_0,...X_{n-1}]`
+to `k[X_1,...X_n][X]`. And it is integral by the lemma above. -/
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:155]:
```suggestion
/-- Let `I` be an ideal containing `f`. `hom1` is a homomorphism from `k[X_0,...X_{n-1}]`
to `k[X_1,...X_n][X]/φ(T(I))`, where `φ` is the isomorphism from `k[X_0,...X_{n-1}]`
to `k[X_1,...X_n][X]`. -/
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 47]
```diff
@@ -0,0 +1,253 @@
...
+private noncomputable abbrev hom1 : MvPolynomial (Fin n) k →ₐ[MvPolynomial (Fin n) k]
+    (MvPolynomial (Fin n) k)[X] ⧸ (I.map <| T f).map (MvPolynomial.finSuccEquiv k n) :=
+  (Quotient.mkₐ (MvPolynomial (Fin n) k) (map (finSuccEquiv k n) (map (T f) I))).comp
+  (Algebra.ofId (MvPolynomial (Fin n) k) ((MvPolynomial (Fin n) k)[X]))
+
+private lemma hom1_int (fne : f ≠ 0) (fi : f ∈ I): (hom1 f I).IsIntegral := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:161]:
```suggestion
/-- `hom1 f I` is integral. -/
private lemma hom1_int (fne : f ≠ 0) (fi : f ∈ I): (hom1 f I).IsIntegral := by
```

**Review by riccardobrasca — COMMENTED** [review]
Can you add a short description of the strategy of the proof in the docstring at the beginning? It doesn't seem to be the same as in the stack project.

File: Mathlib/Data/Nat/Digits.lean [hunk 48]
```diff
@@ -341,6 +341,24 @@ theorem mul_ofDigits (n : ℕ) {b : ℕ} {l : List ℕ} :
     rw [List.map_cons, ofDigits_cons, ofDigits_cons, ← ih]
     ring
 
+lemma list_eq_of_ofDigits_eq {b : ℕ} (hb : 1 < b) {L1 L2 : List ℕ}
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Digits.lean:344]: Should this be called something like `ofDigits_inj`?

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 49]
```diff
@@ -0,0 +1,253 @@
...
+-/
+open Polynomial MvPolynomial Ideal BigOperators Nat RingHom List
+
+variable {k : Type*} [Field k] {n : ℕ} (f : MvPolynomial (Fin (n + 1)) k)
+variable (v w : Fin (n + 1) →₀ ℕ)
+
+namespace NoetherNormalization
+
+/-- Suppose `f` is a nonzero polynomial of `n+1` variables : `X_0,...,X_n`.
+`up` is a number which is big enough. -/
```
[the remark this answers is not in the document]
Comment (Ruben-VandeVelde) [reply Mathlib/RingTheory/NoetherNormalization.lean:30]: It's `f.totalDegree + 2`, no?

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 50]
```diff
@@ -0,0 +1,253 @@
...
+    (finSuccEquiv k n)) (I.map (T f)) (finSuccEquiv k n).symm (by
+  set g := (finSuccEquiv k n)
+  symm
+  have : g.symm.toRingEquiv.toRingHom.comp g = RingHom.id _ :=
+    g.toRingEquiv.symm_toRingHom_comp_toRingHom
+  calc
+    _ = map (g.symm.toAlgHom.toRingHom.comp g) (map (T f) I) := by rw [← Ideal.map_map]; rfl
+    _ = map (RingHom.id _) (map (T f) I) := by congr
+    _ = Ideal.map ((RingHom.id _).comp <| T f) I := by rw [← Ideal.map_map]; rfl
+    _ = _ := by rw [id_comp]; rfl)
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/NoetherNormalization.lean:178]: Why do you need all these `rfl`s? Are there missing lemmas?

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 51]
```diff
@@ -0,0 +1,253 @@
...
+
+open NoetherNormalization
+
+/-- Use induction to prove there is an injective map from `k[X_0,...X_{r-1}]`
+to `k[X_0,...X_n]/I`. -/
+theorem exists_integral_inj_algHom_of_quotient (I : Ideal (MvPolynomial (Fin n) k))
+    (hi : I ≠ ⊤) : ∃ s ≤ n, ∃ g : (MvPolynomial (Fin s) k) →ₐ[k] ((MvPolynomial (Fin n) k) ⧸ I),
+    Function.Injective g ∧ g.IsIntegral := by
+  induction' n with d hd
+  · refine ⟨0, by rfl, Quotient.mkₐ k I, ?_⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/NoetherNormalization.lean:210]:
```suggestion
  · refine ⟨0, le_rfl, Quotient.mkₐ k I, ?_⟩
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks! A few small comments

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 52]
```diff
@@ -0,0 +1,253 @@
...
+theorem exists_integral_inj_algHom_of_fg {R : Type*} [CommRing R] [Nontrivial R] [Algebra k R]
+    [fin : Algebra.FiniteType k R] : ∃ s, ∃ g : (MvPolynomial (Fin s) k) →ₐ[k] R,
+    Function.Injective g ∧ g.IsIntegral := by
+  obtain ⟨n, f, fsurj⟩ := Algebra.FiniteType.iff_quotient_mvPolynomial''.mp fin
+  set ϕ := quotientKerAlgEquivOfSurjective fsurj
+  obtain ⟨s, _, g, injg, intg⟩ := exists_integral_inj_algHom_of_quotient (ker f) (ker_ne_top _)
+  use s, ϕ.toAlgHom.comp g
+  simp only [AlgEquiv.toAlgHom_eq_coe, AlgHom.coe_comp, AlgHom.coe_coe,
+    EmbeddingLike.comp_injective, AlgHom.toRingHom_eq_coe]
+  exact ⟨injg, intg.trans _ _ (isIntegral_of_surjective _ ϕ.surjective)⟩
```
Comment (erdOne) [inline Mathlib/RingTheory/NoetherNormalization.lean:253]: I would assume `Nontrivial` is non necessary. Also does your proof work for arbitrary domains (for `k`)?

Comment (erdOne) [reply Mathlib/RingTheory/NoetherNormalization.lean:253]: Also can you upgrade `IsIntegral` to `Finite` using `RingHom.IsIntegral.to_finite`?

Comment (riccardobrasca) [reply Mathlib/RingTheory/NoetherNormalization.lean:253]: I also thought the same, but the statement is false for the trivial ring (one can add `FaithFulSmul k R` though, and then it is true).

File: Mathlib/RingTheory/NoetherNormalization.lean (hunk 44 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/NoetherNormalization.lean:79]: or even
```suggestion
  have h3 (i : Fin n) :
      (Polynomial.C (X (R := k) i) + Polynomial.X ^ r i.succ) ^ v i.succ ≠ 0 := by
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 53]
```diff
@@ -0,0 +1,253 @@
...
+    g.toRingEquiv.symm_toRingHom_comp_toRingHom
+  calc
+    _ = map (g.symm.toAlgHom.toRingHom.comp g) (map (T f) I) := by rw [← Ideal.map_map]; rfl
+    _ = map (RingHom.id _) (map (T f) I) := by congr
+    _ = Ideal.map ((RingHom.id _).comp <| T f) I := by rw [← Ideal.map_map]; rfl
+    _ = _ := by rw [id_comp]; rfl)
+
+/-- `eqv2` is the isomorphism from `k[X_0,...,X_n]/T(I)` into `k[X_0,...,X_n]/I`,
+induced by `T`. -/
+private noncomputable abbrev eqv2 := quotientEquivAlg (R₁ := k) (I.map (T f)) I (T f).symm (by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/NoetherNormalization.lean:182]: Please write the type of the equivalence here:
```suggestion
private noncomputable abbrev eqv2 : sorry :=
  quotientEquivAlg (R₁ := k) (I.map (T f)) I (T f).symm (by
```

File: Mathlib/RingTheory/NoetherNormalization.lean (hunk 41 above)
Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/NoetherNormalization.lean:51]: The outer pair of parens around `by simpa ...` is surely unnecessary.

File: Mathlib/RingTheory/NoetherNormalization.lean (hunk 47 above)
Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/NoetherNormalization.lean:161]: As the lemma is private, the docstring will not show up in documentation. A comment `/- ... -/` would do.

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 54]
```diff
@@ -0,0 +1,253 @@
...
+Copyright (c) 2025 Sihan Su. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Riccardo Brasca, Sihan Su, Wan Lin, Xiaoyang Su
+-/
+import Mathlib.Algebra.MvPolynomial.Monad
+import Mathlib.Data.List.Indexes
+import Mathlib.RingTheory.IntegralClosure.IsIntegralClosure.Basic
+/-!
+# Noether Normalizaton
+This file contains a proof of Noether normalization lemma by Nagata.
```
Comment (MichaelStollBayreuth) [inline Mathlib/RingTheory/NoetherNormalization.lean:11]:
```suggestion
This file contains a proof by Nagata of the Noether normalization lemma.
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 55]
```diff
@@ -0,0 +1,253 @@
...
+
+## Main Results
+Let `A` be a finitely generated algebra over a field `k`.
+Then there exists natural number `r` and an injective homomorphism
```
Comment (MichaelStollBayreuth) [inline Mathlib/RingTheory/NoetherNormalization.lean:15]:
```suggestion
Then there exists a natural number `r` and an injective homomorphism
```

File: Mathlib/RingTheory/NoetherNormalization.lean (hunk 45 above)
Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/NoetherNormalization.lean:37]: How does `T1 f c` depend on `f`?

Comment (riccardobrasca) [reply Mathlib/RingTheory/NoetherNormalization.lean]: Because `r` depends on `f`.

File: Mathlib/RingTheory/NoetherNormalization.lean (hunk 50 above)
Comment (su00000) [reply Mathlib/RingTheory/NoetherNormalization.lean:202]: Sorry, but I have no idea how to get rid of these `rfl`s. Could you please give me some help?

Comment (riccardobrasca) [reply Mathlib/RingTheory/NoetherNormalization.lean:202]: Let me have a look.

Comment (riccardobrasca) [reply Mathlib/RingTheory/NoetherNormalization.lean:202]: When the cache is available...

File: Mathlib/RingTheory/NoetherNormalization.lean (hunk 52 above)
Comment (erdOne) [reply Mathlib/RingTheory/NoetherNormalization.lean]: Yeah but you need `FaithFulSmul k R` for domains anyways.

File: Mathlib/RingTheory/NoetherNormalization.lean (hunk 50 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/NoetherNormalization.lean:202]: Even better, tagging `Ideal.map_coe` with `simp` the long `simp only` can be just `by simp [← Ideal.map_map]`.

File: Mathlib/RingTheory/NoetherNormalization.lean (hunk 52 above)
Comment (su00000) [reply Mathlib/RingTheory/NoetherNormalization.lean]: I think this proof does not work for arbitrary domains `k`. If `k` is not a field, the lemma `T_leadingcoeff` will not work. Or is there a substitute for `Polynomial.Monic.quotient_isIntegral` used in lemma `hom1_int`?

Comment (erdOne) [reply Mathlib/RingTheory/NoetherNormalization.lean]: Ah sure. You probably can't prove the domain version directly and it follows from the field version by looking at fraction fields.

Comment (alreadydone) [reply Mathlib/RingTheory/NoetherNormalization.lean]: The domain version won't work with IsIntegral even with the FaithfulSMul assumption; if k = Int and R = k[X]/(2X), then there's no injection from k[x_1,...,x_s] into R unless s=0 by considering transcendence degree, but when s=0, R is not integral over k, only algebraic.
It's interesting to check whether the proof works with IsAlgebraic with appropriate modifications though.

Comment (riccardobrasca) [reply Mathlib/RingTheory/NoetherNormalization.lean]: In my opinion we can focus on such generalizations later on (unless of course it's very easy).

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 56]
```diff
@@ -0,0 +1,309 @@
...
+variable {k : Type*} [Field k] {n : ℕ} (f : MvPolynomial (Fin (n + 1)) k)
+variable (v w : Fin (n + 1) →₀ ℕ)
+
+namespace NoetherNormalization
+
+section equivT
+/-!
+Suppose `f` is a nonzero polynomial of `n+1` variables : `X_0,...,X_n`.
+First we construct an algebra equivalence `T` from `k[X_0,...,X_n]` to `k[X_0,...,X_n]`, such that
+  `f` is mapped to a polynomial of `X_0` with invertible leading coefficient.
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:33]:
```suggestion
  `f` is mapped to a polynomial in `X_0` with invertible leading coefficient.
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 57]
```diff
@@ -0,0 +1,309 @@
...
+More precisely, `T` maps `X_i` to `X_i + X_0 ^ r_i` when `i ≠ 0`, and `X_0` to `X_0`.
+Here we choose `r_i` to be `up ^ i` where `up` is big enought, so that `T` maps
+  different monomials of `f` to mvpolynomials with different degrees of `X_0`. See `Nat.ofDigits`.
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:36]:
```suggestion
Here we choose `r_i` to be `up ^ i` where `up` is big enought, so that `T` maps
  the different monomials of `f` to polynomials with different degrees in `X_0`. See `Nat.ofDigits`.
```
The name `Nat.ofDigits` now changed, right?

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 58]
```diff
@@ -0,0 +1,309 @@
...
+    rw [add_comm, leadingCoeff_X_pow_add_C (by simp)]
+    exact one_ne_zero
+  rw [natDegree_mul h1 (mul_ne_zero h2 (Finset.prod_ne_zero_iff.mpr (fun i _ ↦ h3 i))),
+    natDegree_mul h2 (Finset.prod_ne_zero_iff.mpr (fun i _ ↦ h3 i)),
+    natDegree_prod _  _ (fun i _ ↦ h3 i), natDegree_finSuccEquiv, degreeOf_C]
+  simpa only [natDegree_pow, zero_add, natDegree_X, mul_one, Fin.val_zero, pow_zero, one_mul,
+    add_right_inj] using Finset.sum_congr rfl (fun i _ ↦ by
+    rw [add_comm (Polynomial.C _), natDegree_X_pow_add_C, mul_comm])
+
+/- `T` maps different monomials of `f` to mvpolynomials with different degrees of `X_0`. -/
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:99]:
```suggestion
/- `T` maps different monomials of `f` to polynomials with different degrees in `X_0`. -/
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 59]
```diff
@@ -0,0 +1,309 @@
...
+          Monic.leadingCoeff]
+      · simp only [if_neg h, one_smul, map_add, map_pow]
+        obtain ⟨i, hi⟩ := Fin.exists_succ_eq.mpr h
+        rw [← hi, finSuccEquiv_X_succ, finSuccEquiv_X_zero, add_comm]
+        apply leadingCoeff_X_pow_add_C
+        simp only [add_pos_iff, ofNat_pos, true_or, pow_pos]
+    · simp only [this, one_pow, Finset.prod_const_one, mul_one]
+  · exact fun i ↦ pow_zero _
+
+/- `T` maps `f` into some polynomial of `X_0` such that the leading coeff is invertible. -/
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:131]:
```suggestion
/- `T` maps `f` into some polynomial in `X_0` such that the leading coefficient is invertible. -/
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 60]
```diff
@@ -0,0 +1,309 @@
...
+section intmaps
+/-!
+Second we construct the following maps: Let `I` be an ideal containing `f`.
+  φ : k[X_0,...X_{n-1}] ≃ k[X_1,...X_n][X];
+  hom1 : k[X_0,...X_{n-1}] → k[X_1,...X_n][X]/φ(T(I));
+  eqv1 : k[X_1,...X_n][X]/φ(T(I)) ≃ k[X_0,...,X_n]/T(I);
+  eqv2 : k[X_0,...,X_n]/T(I) ≃ k[X_0,...,X_n]/I;
+  hom2 : k[X_0,...X_(n-1)] → k[X_0,...X_n]/I.
+hom1 is integral because φ(T(I)) contains a monic polynomial.
+hom2 is integral because it's the composition of integral maps.
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:171]:
```suggestion
Second we construct the following maps: Let `I` be an ideal containing `f`.
  `φ : k[X_0,...X_{n-1}] ≃ k[X_1,...X_n][X]`
  `hom1 : k[X_0,...X_{n-1}] → k[X_1,...X_n][X]/φ(T(I))`
  `eqv1 : k[X_1,...X_n][X]/φ(T(I)) ≃ k[X_0,...,X_n]/T(I)`
  `eqv2 : k[X_0,...,X_n]/T(I) ≃ k[X_0,...,X_n]/I`
  `hom2 : k[X_0,...X_(n-1)] → k[X_0,...X_n]/I`
`hom1` is integral because `φ(T(I))` contains a monic polynomial.
`hom2` is integral because it's the composition of integral maps.
```
Also, can you use the actual Lean notation (instead of `≃` and such)?

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 61]
```diff
@@ -0,0 +1,309 @@
...
+    have comp : (kerLiftAlg (hom2 f I)).comp (Quotient.mkₐ k <| ker <| hom2 f I) = (hom2 f I) :=
+      AlgHom.ext fun a ↦ by
+        simp only [AlgHom.coe_comp, Quotient.mkₐ_eq_mk, Function.comp_apply, kerLiftAlg_mk]
+    exact ⟨s, by linarith, ϕ.comp g, (ϕ.coe_comp  g) ▸ (kerLiftAlg_injective _).comp injg,
+      intg.trans _ _ <| (comp ▸ hom2_int f I fne fi).tower_top _ _⟩
+
+variable (k R : Type*) [Field k] [CommRing R] [Nontrivial R] [a : Algebra k R]
+  [fin : Algebra.FiniteType k R]
+
+/-- **Noether Normalization**
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:282]:
```suggestion
/-- **Noether normalization lemma**
```

**Review by riccardobrasca — COMMENTED** [review]
I think this is really good and almost ready. In my opinion there are still two things to be done:

* you write a rather detailed proof strategy, but the description is before each theorem. I think it would be better to have it at the beginning of the file, with references to the actual declaration proving what you claim, maybe in a section "# Strategy of the proof" (for example you can say something like so that `T` maps
  different monomials of `f` to mvpolynomials with different degrees of `X_0`, see `name_of_the_theorem`).
* we try to have descriptive names even for private lemmas. I know, this is annoying but it helps).

The best thing would be to try to extract some results, but I don't know if this is reasonable, they all seem very specific to this proof.

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 62]
```diff
@@ -0,0 +1,309 @@
...
+Let `A` be a finitely generated algebra over a field `k`.
+Then there exists a natural number `r` and an injective homomorphism
+from `k[X_1, X_2, ..., X_r]` to `A` such that `A` is integral over `k[X_1, X_2, ..., X_r]`.
+
+# Strategy of the proof
+Suppose `f` is a nonzero polynomial in `n+1` variables.
+First we construct an algebra equivalence `T` from `k[X_0,...,X_n]` to itself such that
+  `f` is mapped to a polynomial in `X_0` with invertible leading coefficient.
+More precisely, `T` maps `X_i` to `X_i + X_0 ^ r_i` when `i ≠ 0`, and `X_0` to `X_0`.
+Here we choose `r_i` to be `up ^ i` where `up` is big enought, so that `T` maps
```
Comment (MichaelStollBayreuth) [inline Mathlib/RingTheory/NoetherNormalization.lean:23]:
```suggestion
Here we choose `r_i` to be `up ^ i` where `up` is big enough, so that `T` maps
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 63]
```diff
@@ -0,0 +1,309 @@
...
+    EmbeddingLike.comp_injective, AlgHom.toRingHom_eq_coe]
+  exact ⟨injg, intg.trans _ _ (isIntegral_of_surjective _ ϕ.surjective)⟩
+
+/-- Upgrade `IsIntegral` to `Finite`. -/
+theorem exists_finite_inj_algHom_of_fg : ∃ s, ∃ g : (MvPolynomial (Fin s) k) →ₐ[k] R,
+    Function.Injective g ∧ g.Finite := by
+  obtain ⟨s, g, ⟨inj, int⟩⟩ := exists_integral_inj_algHom_of_fg k R
+  use s, g
+  exact ⟨inj, int.to_finite (by
+    have : (Algebra.ofId k R).FiniteType := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:301]: It seems we are missing a lemma here
```lean
theorem Algebra.finiteType_iff_algebraMap : FiniteType k R ↔ (algebraMap k R).FiniteType := by
  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
  · dsimp [RingHom.FiniteType]
    convert h
    exact algebra_ext (algebraMap k R).toAlgebra _ (congrFun rfl)
  · dsimp [RingHom.FiniteType] at h
    convert h
    exact algebra_ext _ (algebraMap k R).toAlgebra (congrFun rfl)
```
(no need to assume `k` a field. It should go very close to the definition of `Algebra.FiniteType`). Actually we can even add
```lean
example {R S : Type*} [CommRing R] [CommRing S] [i : Algebra R S] : (algebraMap R S).toAlgebra = i := by
  exact Algebra.algebra_ext (algebraMap R S).toAlgebra i (congrFun rfl)
```

Then the proof can simply be
```lean
theorem exists_finite_inj_algHom_of_fg : ∃ s, ∃ g : (MvPolynomial (Fin s) k) →ₐ[k] R,
    Function.Injective g ∧ g.Finite := by
  obtain ⟨s, g, ⟨inj, int⟩⟩ := exists_integral_inj_algHom_of_fg k R
  have h : algebraMap k R = g.toRingHom.comp (algebraMap k (MvPolynomial (Fin s) k)) := by
    algebraize [g.toRingHom]
    rw [IsScalarTower.algebraMap_eq k (MvPolynomial (Fin s) k), algebraMap_toAlgebra']
  exact ⟨s, g, inj, int.to_finite (h ▸ Algebra.finiteType_iff_algebraMap.mp fin).of_comp_finiteType⟩
```

**Review by riccardobrasca — APPROVED** [review]

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 64]
```diff
@@ -0,0 +1,294 @@
...
+/-!
+# Noether normalizaton lemma
+This file contains a proof by Nagata of the Noether normalization lemma.
+
+## Main Results
+Let `A` be a finitely generated algebra over a field `k`.
+Then there exists a natural number `r` and an injective homomorphism
+from `k[X_1, X_2, ..., X_r]` to `A` such that `A` is integral over `k[X_1, X_2, ..., X_r]`.
+
+# Strategy of the proof
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:18]:
```suggestion
## Strategy of the proof
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 65]
```diff
@@ -0,0 +1,294 @@
+/-
+Copyright (c) 2025 Sihan Su. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Riccardo Brasca, Sihan Su, Wan Lin, Xiaoyang Su
+-/
+import Mathlib.Algebra.MvPolynomial.Monad
+import Mathlib.Data.List.Indexes
+import Mathlib.RingTheory.IntegralClosure.IsIntegralClosure.Basic
+/-!
+# Noether normalizaton lemma
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:10]:
```suggestion
# Noether normalization lemma
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 66]
```diff
@@ -0,0 +1,294 @@
...
+Second we construct the following maps: Let `I` be an ideal containing `f` and
+let `φ : k[X_0,...X_{n-1}] ≃ₐ[k] k[X_1,...X_n][X]` be the natural isomorphism.
+  `hom1 : k[X_0,...X_{n-1}] →ₐ[k[X_0,...X_{n-1}]] k[X_1,...X_n][X]/φ(T(I))`
+  `eqv1 : k[X_1,...X_n][X]/φ(T(I)) ≃ₐ[k] k[X_0,...,X_n]/T(I)`
+  `eqv2 : k[X_0,...,X_n]/T(I) ≃ₐ[k] k[X_0,...,X_n]/I`
+  `hom2 : k[X_0,...X_(n-1)] →ₐ[k] k[X_0,...X_n]/I`
+`hom1` is integral because `φ(T(I))` contains a monic polynomial. See `hom1_isIntegral`.
+`hom2` is integral because it's the composition of integral maps. See `hom2_isIntegral`.
+
+Finially We use induction to prove there is an injective map from `k[X_0,...,X_{r-1}]`
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:35]:
```suggestion
Finally, we use induction to prove there is an injective map from `k[X_0,...,X_{r-1}]`
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 67]
```diff
@@ -0,0 +1,294 @@
...
+Then there exists a natural number `r` and an injective homomorphism
+from `k[X_1, X_2, ..., X_r]` to `A` such that `A` is integral over `k[X_1, X_2, ..., X_r]`.
+
+# Strategy of the proof
+Suppose `f` is a nonzero polynomial in `n+1` variables.
+First we construct an algebra equivalence `T` from `k[X_0,...,X_n]` to itself such that
+  `f` is mapped to a polynomial in `X_0` with invertible leading coefficient.
+More precisely, `T` maps `X_i` to `X_i + X_0 ^ r_i` when `i ≠ 0`, and `X_0` to `X_0`.
+Here we choose `r_i` to be `up ^ i` where `up` is big enough, so that `T` maps
+  different monomials of `f` to polynomials with different degrees in `X_0`. See `T_degree_inj`.
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:24]: `T_degree_inj` has changed name. Please check all the references.

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 68]
```diff
@@ -0,0 +1,294 @@
...
+
+Second we construct the following maps: Let `I` be an ideal containing `f` and
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:26]:
```suggestion
Secondly, we construct the following maps: let `I` be an ideal containing `f` and
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 69]
```diff
@@ -0,0 +1,294 @@
...
+This file contains a proof by Nagata of the Noether normalization lemma.
+
+## Main Results
+Let `A` be a finitely generated algebra over a field `k`.
+Then there exists a natural number `r` and an injective homomorphism
+from `k[X_1, X_2, ..., X_r]` to `A` such that `A` is integral over `k[X_1, X_2, ..., X_r]`.
+
+# Strategy of the proof
+Suppose `f` is a nonzero polynomial in `n+1` variables.
+First we construct an algebra equivalence `T` from `k[X_0,...,X_n]` to itself such that
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:20]:
```suggestion
First, we construct an algebra equivalence `T` from `k[X_0,...,X_n]` to itself such that
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 70]
```diff
@@ -0,0 +1,294 @@
...
+  `hom2 : k[X_0,...X_(n-1)] →ₐ[k] k[X_0,...X_n]/I`
+`hom1` is integral because `φ(T(I))` contains a monic polynomial. See `hom1_isIntegral`.
+`hom2` is integral because it's the composition of integral maps. See `hom2_isIntegral`.
+
+Finially We use induction to prove there is an injective map from `k[X_0,...,X_{r-1}]`
+  to `k[X_0,...,X_(n-1)]/I`.The case `n=0` is trivial.
+For `n+1`, if `I = 0` there is nothing to do.
+Otherwise, `hom2` induces a map `φ` by quotient kernel.
+We use the inductive hypothesis on k[X_1,...,X_n] and the kernel of `hom2` to get `s, g`.
+Compose `φ` and `g` and we get the desired map since both `φ` and `g` are injective and integral.
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:40]:
```suggestion
Composing `φ` and `g` we get the desired map since both `φ` and `g` are injective and integral.
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 71]
```diff
@@ -0,0 +1,294 @@
...
+
+variable (k R : Type*) [Field k] [CommRing R] [Nontrivial R] [a : Algebra k R]
+  [fin : Algebra.FiniteType k R]
+
+/-- **Noether normalization lemma**
+For a finitely generated algebra `A` over a field `k`,
+there exists a natural number `r` and an injective homomorphism
+from `k[X_1, X_2, ..., X_r]` to `A` such that `A` is integral over `k[X_1, X_2, ..., X_r]`.
+-/
+theorem exists_integral_inj_algHom_of_fg : ∃ s, ∃ g : (MvPolynomial (Fin s) k) →ₐ[k] R,
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:273]:
```suggestion
-/
@[stacks 00OW]
theorem exists_integral_inj_algHom_of_fg : ∃ s, ∃ g : (MvPolynomial (Fin s) k) →ₐ[k] R,
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 72]
```diff
@@ -0,0 +1,294 @@
...
+
+/-- `up` is defined as `2 + f.totalDegree`. Any big enough number would work. -/
+local notation3 "up" => 2 + f.totalDegree
+
+variable {f v} in
+private lemma lt_up (vlt : ∀ i, v i < up) : ∀ l ∈ ofFn v, l < up := by
+  intro l h
+  rw [mem_ofFn, Set.mem_range] at h
+  obtain ⟨y, hy⟩ := h
+  exact hy ▸ vlt y
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:63]:
```suggestion
  obtain ⟨y, rfl⟩ := h
  exact vlt y
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 73]
```diff
@@ -0,0 +1,294 @@
...
+local notation3 "r" => fun (i : Fin (n + 1)) ↦ up ^ i.1
+
+/-- We construct an algebra map `T1 f c` which maps `X_i` into `X_i + c • X_0 ^ r_i` when `i ≠ 0`
+and `X_0` to `X_0`. -/
+noncomputable abbrev T1 (c : k) :
+    MvPolynomial (Fin (n + 1)) k →ₐ[k] MvPolynomial (Fin (n + 1)) k :=
+  aeval fun i ↦ if i = 0 then X 0 else X i + c • X 0 ^ r i
+
+private lemma t1_comp_t1_neg (c : k) :
+    (T1 f c).comp (T1 f (-c)) = AlgHom.id _ _ := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:75]:
```suggestion
private lemma t1_comp_t1_neg (c : k) : (T1 f c).comp (T1 f (-c)) = AlgHom.id _ _ := by
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 74]
```diff
@@ -0,0 +1,309 @@
...
+        obtain ⟨i, hi⟩ := Fin.exists_succ_eq.mpr h
+        rw [← hi, finSuccEquiv_X_succ, finSuccEquiv_X_zero, add_comm]
+        apply leadingCoeff_X_pow_add_C
+        simp only [add_pos_iff, ofNat_pos, true_or, pow_pos]
+    · simp only [this, one_pow, Finset.prod_const_one, mul_one]
+  · exact fun i ↦ pow_zero _
+
+/- `T` maps `f` into some polynomial in `X_0` such that the leading coefficient is invertible. -/
+private lemma T_leadingcoeff_isUnit (fne : f ≠ 0) :
+    ∃ c : (MvPolynomial (Fin n) k)ˣ, (c.val • (finSuccEquiv k n (T f f))).Monic := by
```
[the remark this answers is not in the document]
Comment (riccardobrasca) [reply Mathlib/RingTheory/NoetherNormalization.lean:138]: Let me see how I can modify this statement.

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 75]
```diff
@@ -0,0 +1,294 @@
...
+    _ = (I.map (T f)).map (RingHom.id _)  := by simp only [← Ideal.map_map, Ideal.map_coe]
+    _ = (I.map (T f)).map (g.symm.toAlgHom.toRingHom.comp g) :=
+      congrFun (congrArg Ideal.map this.symm) (I.map (T f))
+    _ = _ := by simp [← Ideal.map_map, Ideal.map_coe])
+
+/- `eqv2` is the isomorphism from `k[X_0,...,X_n]/T(I)` into `k[X_0,...,X_n]/I`,
+induced by `T`. -/
+private noncomputable abbrev eqv2 :
+    (MvPolynomial (Fin (n + 1)) k ⧸ I.map (T f)) ≃ₐ[k] MvPolynomial (Fin (n + 1)) k ⧸ I
+  := quotientEquivAlg (R₁ := k) (I.map (T f)) I (T f).symm (by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:205]:
```suggestion
  := quotientEquivAlg (R₁ := k) (I.map (T f)) I (T f).symm <| by
```
Looks nicer (you have to erase the final parenthesis).

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 76]
```diff
@@ -0,0 +1,294 @@
...
+
+end intmaps
+end NoetherNormalization
+
+section mainthm
+
+open NoetherNormalization
+
+/-- There exists some `s ≤ n` and an integral injective algebra homomorphism
+from `k[X_0,...,X_(r-1)]` to `k[X_0,...,X_(n-1)]/I` if `I` is not top.-/
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:232]:
```suggestion
from `k[X_0,...,X_(r-1)]` to `k[X_0,...,X_(n-1)]/I` if `I ≠ ⊤`.-/
```

**Review by riccardobrasca — APPROVED** [review]

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 77]
```diff
@@ -0,0 +1,290 @@
...
+    · have bij : Function.Bijective (Quotient.mkₐ k I) := (Quotient.mkₐ_bij_iff_eq_zero I).mpr eqi
+      exact ⟨d + 1, le_rfl, _, bij.1, isIntegral_of_surjective _ bij.2⟩
+    · obtain ⟨f, fi, fne⟩ := Submodule.exists_mem_ne_zero_of_ne_bot eqi
+      set ϕ := kerLiftAlg <| hom2 f I
+      have := Quotient.nontrivial hi
+      obtain ⟨s, _, g, injg, intg⟩ := hd (ker <| hom2 f I) (ker_ne_top <| hom2 f I)
+      have comp : (kerLiftAlg (hom2 f I)).comp (Quotient.mkₐ k <| ker <| hom2 f I) = (hom2 f I) :=
+        AlgHom.ext fun a ↦ by
+          simp only [AlgHom.coe_comp, Quotient.mkₐ_eq_mk, Function.comp_apply, kerLiftAlg_mk]
+      exact ⟨s, by linarith, ϕ.comp g, (ϕ.coe_comp  g) ▸ (kerLiftAlg_injective _).comp injg,
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/NoetherNormalization.lean:257]:
```suggestion
      exact ⟨s, by omega, ϕ.comp g, (ϕ.coe_comp  g) ▸ (kerLiftAlg_injective _).comp injg,
```
I think it is slightly faster.

**Review by riccardobrasca — APPROVED** [review]
LGTM, but since I am a coauthor someone else should merge it.

maintainer delegate

**Comment by riccardobrasca** [comment]
Sorry, one last thing: can you add a `TODO` saying that we can take `s` in the final theorems equal to the Krull dimension of `R`?

**Comment by su00000** [comment]
> Sorry, one last thing: can you add a `TODO` saying that we can take `s` in the final theorems equal to the Krull dimension of `R`?

Sure

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 78]
```diff
@@ -0,0 +1,292 @@
...
+variable (k R : Type*) [Field k] [CommRing R] [Nontrivial R] [a : Algebra k R]
+  [fin : Algebra.FiniteType k R]
+
+/-- **Noether normalization lemma**
+For a finitely generated algebra `A` over a field `k`,
+there exists a natural number `r` and an injective homomorphism
+from `k[X_1, X_2, ..., X_r]` to `A` such that `A` is integral over `k[X_1, X_2, ..., X_r]`.
+-/
+@[stacks 00OW]
+theorem exists_integral_inj_algHom_of_fg : ∃ s, ∃ g : (MvPolynomial (Fin s) k) →ₐ[k] R,
```
Comment (jcommelin) [inline Mathlib/RingTheory/NoetherNormalization.lean:271]: The docstring talks about `r`, whereas the statement talks about `s`. Could you please make both of them use the same letter?

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by riccardobrasca** [comment]
Two hours without merging master and there is of course an error... it's probably a lemma about quotient that had implicitness of some variable changed. Feel free to fix and merge.

**Comment by riccardobrasca** [comment]
I pushed a fix to `Operations.lean` but it will surely break something in the final file.

File: Mathlib/RingTheory/Ideal/Quotient/Operations.lean [hunk 79]
```diff
@@ -396,6 +396,19 @@ theorem Quotient.mkₐ_ker (I : Ideal A) [I.IsTwoSided] :
     RingHom.ker (Quotient.mkₐ R₁ I : A →+* A ⧸ I) = I :=
   Ideal.mk_ker
 
+lemma Quotient.mkₐ_bij_iff_eq_zero (I : Ideal A) [I.IsTwoSided] :
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Quotient/Operations.lean:399]: The name doesn't seem to match the statement.

File: Mathlib/RingTheory/FiniteType.lean [hunk 80]
```diff
@@ -314,6 +314,11 @@ end FiniteType
 
 end AlgHom
 
+theorem Algebra.finiteType_iff_algebraMap {R A : Type*} [CommRing R] [CommRing A] [Algebra R A] :
```
Comment (erdOne) [inline Mathlib/RingTheory/FiniteType.lean:317]: This lemma should probably be flipped.

File: Mathlib/RingTheory/Ideal/Quotient/Operations.lean (hunk 79 above)
Comment (erdOne) [reply Mathlib/RingTheory/Ideal/Quotient/Operations.lean]: And the normal form is probably bot instead of 0

Comment (su00000) [reply Mathlib/RingTheory/Ideal/Quotient/Operations.lean]: Should I change the name to `Quotient.mk_bijective_iff_eq_bot`? I searched `bij` in mathlib find some theorems like [Finset.sum_bij](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Group/Finset/Defs.html#Finset.sum_bij).

Comment (su00000) [reply Mathlib/RingTheory/Ideal/Quotient/Operations.lean]: Thanks!
